US05741926
4,5-Difluoro-2-((2-(phenylamino)acetyl)amino)benzoic Acid
A solution of 4,5-difluoro-2-((bromoacetyl)amino)benzoic acid (31.0 g 105.4 mmol) and aniline (24 mL, 24.5 g, 263.4 mmol) in anhydrous DMF (100 mL) was heated to 95°-100° C. overnight with stirring under N2. The solution was cooled, poured into 500 mL of ice-water, and then a solution of 5% KOH was added until the pH of the solution was 10. The solution was extracted with 3×150 mL of CH2Cl2, and then the aqueous layer was separated and acidified to pH=3 using 2N HCl. The yellow precipitate which formed was filtered, washed with water, and then dried in a vacuum desiccator to yield 32.01 g (99%) of the title compound as a light-yellow solid, mp 124°-126° C.: 1H NMR (DMSO-d6) δ12.10 (s, 1H), 8.75 (dd, J=14.0, J=7.6, 1H), 7.86 (dd, J=11.6, J=1.2, 1H), 7.09 (t, J=7.2, 2H), 6.63-6.40 (m, 4H), 3.85 (s, 2H); 13C NMR (DMSO-d6) δ171.40, 167.44, 152.18 (dd, J=249, J=12.7), 148.02, 144.02 (dd, J=242, J=12.6), 138.18 (dd, J=10.6, J=2.1), 129.01, 119.66 (d, J=19), 117.22, 113.10, 112.48, 108.21 (d, J=23), 48.82; MS (El, m/z) 306 (M+).

reactant | 4,5-difluoro-2-((bromoacetyl)amino)benzoic acid | 105.4 mmol, 31.0 g | FC1=CC(=C(C(=O)O)C=C1F)NC(CBr)=O | C9H6BrF2NO3
reactant | aniline | 263.4 mmol, 24 mL, 24.5 g | NC1=CC=CC=C1 | C6H7N
reactant | KOH | [OH-].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4,5-Difluoro-2-((2-(phenylamino)acetyl)amino)benzoic Acid | 32.01 g, 99% | FC1=CC(=C(C(=O)O)C=C1F)NC(CNC1=CC=CC=C1)=O | C15H12F2N2O3
